US07893093B2
To a 0.2 M stock solution of 3-mercapto-2(R)-[2,2,3,3,3-pentafluoro-1-(S)-(4-fluorophenyl)propylamino]-propionic acid in NaOH (10 mL, 2 mmol), 2-chloromethylpyridine (0.328 g, 2 mmol) and 1 N solution of NaOH (1 mL) were added. After stirring the reaction mixture for 5 h at room temperature, 1 M HCl solution was added until pH 5-6. The mixture was extracted with ethyl acetate and the combined organic extracts were washed with brine and dried over sodium sulfate and concentrated to give N-(1-cyanocyclopropyl)-3-pyridin-2-ylmethanesulfanyl)-2(R)-[3,3,3,2,2-pentafluoro-1(S)-(4-fluorophenyl)propylamino]-propionamide as a foam (0.692 g) which was converted to the title compound as described in Example 6 above.

reactant | 3-mercapto-2(R)-[2,2,3,3,3-pentafluoro-1-(S)-(4-fluorophenyl)propylamino]-propionic acid | SC[C@@H](C(=O)O)N[C@H](C(C(F)(F)F)(F)F)C1=CC=C(C=C1)F | C12H11F6NO2S
reactant | NaOH | 2 mmol, 10 mL | [OH-].[Na+]
reactant | 2-chloromethylpyridine | 2 mmol, 0.328 g | ClCC1=NC=CC=C1 | C6H6ClN
reactant | NaOH | 1 mL | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
product | 2(R)-[3,3,3,2,2-pentafluoro-1(S)-(4-fluorophenyl)propylamino]-propionamide | 0.692 g | FC(C([C@H](C1=CC=C(C=C1)F)N[C@@H](C(=O)N)C)(F)F)(F)F | C12H12F6N2O
